US04544400
5-(2-Chloro-4-trifluoromethylphenoxy)benzo-2,1,3-oxadiazole N-oxide (1.5 g, 4.5 mmol) is dissolved in 25 ml of ice-cold conc. sulfuric acid. To this is added dropwise 0.32 g (5.0 mmol) of nitric acid dissolved in 5 ml of conc. sulfuric acid. The mixture is allowed to stand for 30 minutes at 0°, and is then poured onto 100 g of ice. The solid is collected to give 4-nitro-5-(2-chloro-4-trifluoromethylphenoxy)benzo-2,1,3-oxadiazole N-oxide.

reactant | 5-(2-Chloro-4-trifluoromethylphenoxy)benzo-2,1,3-oxadiazole N-oxide | 4.5 mmol, 1.5 g | ClC1=C(OC2=CC=3C(=[N+](ON3)[O-])C=C2)C=CC(=C1)C(F)(F)F | C13H6ClF3N2O3
reactant | nitric acid | 5.0 mmol, 0.32 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 4-nitro-5-(2-chloro-4-trifluoromethylphenoxy)benzo-2,1,3-oxadiazole N-oxide | [N+](=O)([O-])C1=C(C=CC2=[N+](ON=C21)[O-])OC2=C(C=C(C=C2)C(F)(F)F)Cl | C13H5ClF3N3O5
